US06713474B2
To a solution of 4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidine (2.0 g, 6.6 mmol) in dry DMF (120 ml) under nitrogen at 0° C. was added NaH (0.264 g, 60% dispeersion, 6.6 mmol) and then reaction mixture warmed to room temperature and stirred for 1 hr. tert-butyl 3-[(4-methylphenyl)sulfonyl]oxy-1-pyrrolidinecarboxylate (2.25 g, 6.6 mmol) was added portionwise and the mixture heated at 95° C. for 72 hr. Quench with water and extract with EtOAc (4×100 ml). Wash the combined organic solutions with water (4×100 ml) and brine (2×100 ml). The organics were dried (sodium sulphate), filtered and evaporated to leave a solid which was dissolved in EtOAc/MeOH and adsorbed onto silica. Purification using flash silica gel column chromatography with 5% MeOH/EtOAc as eluent gave in F 17-25 tert-butyl 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-1-pyrrolidinecarboxylate (1.0 g, 32%) as a white solid m.pt. 168-170° C. Rf in 9:1 EtOAc: MeOH=0.46. 1H NMR (d6 DMSO, 250 MHz): 8.17 (1H, s), 7.38-7.50 (5H, m), 6.19 (2H, bs), 5.31 (1H, m), 3.77 (1H, m), 3.42-3.60 (3H, m), 2.38 (2H, m), 1.40 (9H, s). Mass spec. 471.2250 (C27H29O3N5) IR (KBr disc): 3130, 1683, 1585, 1404, 1245 cm−1.

reactant | 4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidine | 6.6 mmol, 2.0 g | NC=1C2=C(N=CN1)NC=C2C2=CC=C(C=C2)OC2=CC=CC=C2 | C18H14N4O
reactant | NaH | 6.6 mmol, 0.264 g | [H-].[Na+]
reactant | tert-butyl 3-[(4-methylphenyl)sulfonyl]oxy-1-pyrrolidinecarboxylate | 6.6 mmol, 2.25 g | CC1=CC=C(C=C1)S(=O)(=O)OC1CN(CC1)C(=O)OC(C)(C)C | C16H23NO5S
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
solvent | EtOAc MeOH | CCOC(=O)C.CO
product | tert-butyl 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-1-pyrrolidinecarboxylate | 1.0 g, 32% | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CN(CC2)C(=O)OC(C)(C)C | C27H29N5O3
